Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
admission for cycle 2 of HIDAC
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with history of 
intermediate-risk cytogenetics and favorable risk AML (normal 
karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ remission 
after successful induction 7+3 chemotherapy who
presented for C2 of HiDAC consolidation therapy. His ___ cycle 
of HIDAC was complicated by relatively prolonged neutropenia 
along with fever and subsequent ___ abscess, fortunately 
now all resolved. We will therefore provide Neulasta therapy on 
D10 of treatment to help reduce duration of neutropenia and 
infection risk.

ROS: On arrival to the floor, patient denies headache, vision 
changes, dizziness, lightheadedness, weakness, numbness, 
shortness of breath, cough, hemoptysis, chest pain, 
palpitations, abdominal pain, nausea, vomiting, diarrhea, 
hematemesis, hematochezia, melena, dysuria, hematuria, and new 
rashes. All other ROS negative. 
 
 
Past Medical History:
TREATMENT COURSE:
___ INITIAL BM/BXAML
___ Consented to protocol ___ INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2) (RHP: +NPM1, +IDH2,+ RAD21)
___ D+14 BMBx ablated, 
___ D+26 remission, NPM1 negative
___ C1D1 HIDAC
--___ admitted for fever
--___ CT showed perianal abscess, drained, improved with
antibiotics
--___ C2D1 HIDAC
 
Social History:
___
Family History:
Mother had lung cancer. Father had some type of
metastatic cancer extensively involving the bones. No history of
any hematologic disorders including leukemia or lymphoma.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: TC 98.5 PO 116/74 84 18 100%RA 
GEN: well-appearing adult man sitting comfortably on the exam
table. pleasant, conversive, and interactive. accompanied by 1
daughter
___: anicteric sclerae. MM moist and pink. hair is starting to
grow back
LYMPH: no adenopathy in cervical, submandibular, submental,
___ chains
LUNGS: clear bilaterally
HEART: normal rate, regular rhythm, no m/r/g
ABDOMEN: soft, non-tender, non-distended, NABS. no splenomegaly
EXTREMITIES: warm. no petechiae or skin rash
RECTAL: inspection notable for absence of abscess or ___
skin irritation/ulceration. Small non-inflamed external
hemorrhoids present.
ACCESS: POC C/D/I

DISCHARGE PHYSICAL EXAM:
VS: TC 98.5 94-120/55-64 82-100 ___ 94-100%RA
GEN: well-appearing adult man in no acute distress
___: anicteric sclerae. MM moist and pink. Hair growing back
LYMPH: no adenopathy in cervical, submandibular, submental,
___ chains
LUNGS: clear bilaterally, non-labored
HEART: normal rate, regular rhythm, no m/r/g
ABDOMEN: soft, non-tender, non-distended, NABS. No splenomegaly
SKIN: erythematous macules and papules coalescing into diffuse
blanchable erythema on trunk and proximal extremities now 
resolved. 
EXTREMITIES: WWP, no tremors
RECTAL: inspection notable for absence of abscess or ___
skin irritation/ulceration. Small non-inflamed external
hemorrhoids present.
ACCESS: POC C/D/I
 
Pertinent Results:
ADMISSION LABS:
___ 12:00PM   PLT COUNT-398
___ 12:00PM   NEUTS-60.9 ___ MONOS-18.3* EOS-0.2* 
BASOS-0.8 IM ___ AbsNeut-3.64# AbsLymp-1.15* AbsMono-1.09* 
AbsEos-0.01* AbsBaso-0.05
___ 12:00PM   WBC-6.0 RBC-2.83* HGB-9.2* HCT-28.0* MCV-99*# 
MCH-32.5* MCHC-32.9 RDW-20.5* RDWSD-68.4*
___ 12:00PM   TOT PROT-5.9* ALBUMIN-4.0 GLOBULIN-1.9* 
CALCIUM-9.4 PHOSPHATE-3.8 MAGNESIUM-1.9
___ 12:00PM   ALT(SGPT)-17 AST(SGOT)-18 ALK PHOS-54 TOT 
BILI-0.3
___ 12:00PM   estGFR-Using this
___ 12:00PM   GLUCOSE-96 UREA N-10 CREAT-0.7 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-27 ANION GAP-11
___ 12:00AM   PLT COUNT-391
___ 12:00AM   NEUTS-86.6* LYMPHS-9.1* MONOS-3.0* EOS-0.1* 
BASOS-0.6 IM ___ AbsNeut-7.77*# AbsLymp-0.82* AbsMono-0.27 
AbsEos-0.01* AbsBaso-0.05
___ 12:00AM   WBC-9.0 RBC-2.81* HGB-9.2* HCT-28.0* MCV-100* 
MCH-32.7* MCHC-32.9 RDW-20.4* RDWSD-69.7*
___ 12:00AM   ALBUMIN-3.7 CALCIUM-8.5 PHOSPHATE-1.6* 
MAGNESIUM-1.8
___ 12:00AM   ALT(SGPT)-16 AST(SGOT)-17 LD(LDH)-193 ALK 
PHOS-56 TOT BILI-0.2
___ 12:00AM   GLUCOSE-151* UREA N-9 CREAT-0.5 SODIUM-138 
POTASSIUM-3.6 CHLORIDE-106 TOTAL CO2-24 ANION GAP-8*

DISCHARGE LABS:
___ 12:00AM BLOOD WBC-3.1*# RBC-2.87* Hgb-9.3* Hct-27.8* 
MCV-97 MCH-32.4* MCHC-33.5 RDW-19.2* RDWSD-67.4* Plt ___
___ 12:00AM BLOOD Neuts-96.5* Lymphs-1.3* Monos-0.3* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-3.02# AbsLymp-0.04* 
AbsMono-0.01* AbsEos-0.01* AbsBaso-0.01
___ 12:00AM BLOOD Plt ___
___ 12:00AM BLOOD Glucose-148* UreaN-16 Creat-0.5 Na-138 
K-4.5 Cl-100 HCO3-23 AnGap-15
___ 12:00AM BLOOD ALT-17 AST-15 LD(LDH)-164 AlkPhos-53 
TotBili-0.6
___ 12:00AM BLOOD Albumin-4.0 Calcium-8.6 Phos-3.7 Mg-2.1

IMAGING:

CXR ___ IMPRESSION: No radiographic evidence of acute 
cardiopulmonary disease. 
 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ is a ___ year old male with 
intermediate-risk cytogenetics and favorable risk AML (normal 
karyotype, FLT3-, NPM1+, IDH2+, RAD21+, CEBPA-) in ___ remission 
presenting for C2 of HiDAC consolidation therapy.

ACUTE ISSUES:
=================

#Rash: Concerning for drug rash likely due to cytarabine. 
Dermatology consulted ___ and thinks that the characteristics 
of the rash is most likely consistent with an exanthematous or 
morbilliform eruption. He has no LFT abnormalities or
eosinophilia. Albeit, he has received previous cytarabine 
infusions without any skin eruptions, exanthematous reaction is 
common with cytarabine. DERM recommendations are as follows:
-Clobetasol 0.05% ointment BID (day 1: ___ for up to 2 wks. 
-Loratidine daily and Benadryl as needed

#Fever, non-neutrapenia: Fever spike to 102.8 on ___ in the 
absence of localizing symptoms of infection. Potentially also 
due to idiosyncratic reaction to cytarabine in the context of a 
rash as above. UA is bland. Urine and blood cultures without 
growth at discharge. Chest x-ray without acute cardiopulmonary 
process. Deferred
antibiotics at this time given he is not neutropenic and there 
is no localizing source of infection. He did not have any other 
recurrences of fever prior to discharge. 

#AML (+NPM1, +IDH2,+ RAD21): Considered favorable risk based on 
IDH2 and NPM1 status, although presence of RAD21 not 
well-understood. He did achieve MRD negative status based on his 
negative NPM1 by PCR testing and is considered favorable AML
based on ___. Except as described, he did not develop any 
other acute complications during cycle 2 of HIDAC. Today is D+6. 
He will receive Neulasta following chemotherapy completion 
___. He will follow up with Dr. ___ on D11 
(___). 

CHRONIC/RESOLVED ISSUES:
===========================

#Perianal abscess s/p I&D: Resolved. 

#Marijuana Use: Continues although he is using vaporizer, will 
need prophylactic voriconazole while neutropenic.

ACCESS: POC
CODE: Full Code 
COMMUNICATION: Patient
EMERGENCY CONTACT HCP: ___ (ex-wife/HCP) 
___ (cell)
DISPO: Discharged ___. RTC ___ and ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ciprofloxacin HCl 500 mg PO Q12H 
2. LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia 
3. Vitamin D ___ UNIT PO DAILY 
4. Voriconazole 200 mg PO Q12H 

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Ointment 1 Appl TP BID affected 
areas on the body, spare face/groin/axilla 
do not use more than 2 weeks  
2.  Loratadine 10 mg PO DAILY:PRN rash  
3.  Pegfilgrastim 6 mg SC ONCE Duration: 1 Dose 
You will receive this injection on ___  
4.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP BOTH EYES TID 
continue for the next ___ hours and then discontinue  
5.  LORazepam 0.5-1 mg PO Q8H:PRN 
anxiety/nausea/vomiting/insomnia  
6.  Vitamin D ___ UNIT PO DAILY  
7. HELD- Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days  This 
medication was held. Do not restart Ciprofloxacin HCl until Dr. 
___ you to do so
8. HELD- Voriconazole 200 mg PO Q12H  This medication was held. 
Do not restart Voriconazole until Dr. ___ you to 
do so

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Rash
#AML

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to receive your second cycle of consolidation 
therapy (HIDAC) as part of your leukemia treatment. You 
developed fever and rash which we think is a side effect of your 
chemotherapy. Your symptoms are resolved. You will receive your 
neulasta injection and follow up with Dr. ___ as below. It 
was a pleasure taking care of you.
 
Followup Instructions:
___